US07279481B2
2-[3-(2-Oxo-1-imidazolidinyl)phenyl]ethyl methanesulfonate
Alternatively, 1-[3-(2-hydroxyethyl)phenyl]-2-imidazolidinone was suspended in acetonitrile (5 vol) at room temperature and under nitrogen. Triethylamine (1 vol) was added dropwise over 15 minutes. The mixture was cooled to 0° C. and methanesulfonyl chloride (0.73 vol) was added over 30 minutes. The reaction mixture was stirred at room temperature for 2 hours, then diluted with ethyl acetate (10 vol). The mixture was washed with a saturated solution of ammonium chloride (2×3 vol), followed by water-brine 1:1 (2×3 vol). The organic phase was concentrated to 5 vol, ethyl acetate (5 vol) was added and the solution was evaporated to dryness, yielding the title compound as a cream-coloured solid (yield: 90% th).

reactant | 1-[3-(2-hydroxyethyl)phenyl]-2-imidazolidinone | OCCC=1C=C(C=CC1)N1C(NCC1)=O | C11H14N2O2
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[3-(2-Oxo-1-imidazolidinyl)phenyl]ethyl methanesulfonate | yield: 90% | CS(=O)(=O)OCCC1=CC(=CC=C1)N1C(NCC1)=O | C12H16N2O4S
